### ISSUE TITLE
Reporting errors for nested tactics.

### ISSUE THREAD

**Issue by leodemoura** [leanprover/lean4#194]
Many builtin tactics (e.g., `cases`) are implemented using other tatics (e.g., `induction`, `subst`, ...). For these tactics, the error produced may often be counter-intuitive to users. Here is an example:
```lean
theorem ex (n : Nat) (h : n + 1 = n) : False := by 
  cases h;
  done
```
produces the following error at `cases`
```lean
error: tactic 'subst' failed, 'n' occurs at
  Nat.succ (Nat.add n 0)
case refl
n : Nat
h : n + 1 = n
h✝ : n = Nat.succ (Nat.add n 0)
⊢ h ≅ Eq.refl (n + 1) → False
```
A simple solution is to add `catch` at `cases`, and add more information. Example:
```lean
error: tactic `cases` failed 
nested error: tactic 'subst' failed, 'n' occurs at
 Nat.succ (Nat.add n 0)
case refl
...
```
@Kha What do you think?

**Comment by Kha** [comment]
Looks good. I suppose ideally the error message should not mention `subst` at all, but the "nested error" is certainly easier to implement.
